US04219660
Preparation of 3-methyl-4-nitro-2-buten-1-ol-hexadecanoate
To 0.1 Mol of 4-nitro-3-methyl-2-butenol in benzene was added 0.1 Mol of palmitoylchloride and stirred overnight. The benzene was evaporated and the residue was taken up in sat. sodiumbicarbonate solution and extracted with ether. The product was crystallized from a 95% ethanol-water solution. Off white crystals, m.p. 30.5°-31.5° C., were obtained.

reactant | 4-nitro-3-methyl-2-butenol | 0.1 Mol | [N+](=O)([O-])CC(=CCO)C | C5H9NO3
reactant | palmitoylchloride | 0.1 Mol | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-nitro-2-buten-1-ol hexadecanoate | CC(=CCO)C[N+](=O)[O-].C(CCCCCCCCCCCCCCC)(=O)[O-] | InChI=1S/C16H32O2.C5H9NO3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16(17)18;1-5(2-3-7)4-6(8)9/h2-15H2,1H3,(H,17,18);2,7H,3-4H2,1H3/p-1
